US09328110B2
To a solution of 6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanoic acid (31.0 g, 95.3 mmol) in dichloromethane (200 mL) in an ice bath was added oxalyl chloride (21.9 g, 172 mmol) dropwise over a 30 minute period. The reaction mixture was then stirred for one hour at room temperature then concentrated under reduced pressure, and dichloromethane (400 mL) and N,O-dimethylhydroxylamine hydrochloride (18.6 g, 190 mmol) were added to the residue followed by the dropwise addition of triethylamine (38.5 g, 380 mmol). After stirring at room temperature overnight, the reaction mixture was washed successively with a saturated aqueous sodium bicarbonate solution and brine (100 mL each), dried over potassium carbonate, filtered, and concentrated under reduced pressure to provide N-methoxy-N-methyl-6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanamide (28.0 g) as a dark oil that was used directly in the next step without further purification.

reactant | 6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanoic acid | 95.3 mmol, 31.0 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCCC(=O)O | C19H23N3O2
reactant | oxalyl chloride | 172 mmol, 21.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 190 mmol, 18.6 g | Cl.CNOC
reactant | triethylamine | 380 mmol, 38.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanamide | 28.0 g | CON(C(CCCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)=O)C | C21H28N4O2
